Question-2a Long Channel N-MOSFET

* Model
.include "TSMC180.lib"
.model nch_tt nmos

* Circuit
Vs	G	1	AC	SIN(0 0.00159154943 100)
Vcm	1	0	DC	-1.8
M	0	G	0	0	nch_tt W=25u L=10u

* Results
.control
run

let Vg = -1.8
let X = vector(180)
let Y = vector(180)

while Vg < 1.81
	alter @Vcm Vg
	tran	10u	10m
	meas	tran	Capacitance	FIND	Vs#branch	AT = 10m
	let X[50*(Vg+1.8)] = Vg
	let Y[50*(Vg+1.8)] = -Capacitance

	let Vg = Vg + 0.02
end
plot	Y vs X

.endc
.end
